US06303780B1
Part E: Preparation of (+/−)-6-Chloro-4-(cyclopropylethynyl)-8-fluoro-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one
To a stirred cooled (−25° C.) solution of 144 mg (0.47 mmol) of +/−)-2-amino-5-chloro-3-fluoro-α-(cyclopropylethynyl)-α-(trifluoromethyl)benzyl alcohol in 6 mL of toluene was added 0.28 mL (2.0 mmol) of triethylamine followed by 0.62 mL( 1.2 mmol) of a 1.93 M solution of phosgene in toluene over 3 min. The solution was stirred an additional 30 min. at −25° C. after which time it was warmed to ambient temperature and quenched with 0.5 N aq. citric acid. The mixture was extracted once with ether and once with ethyl acetate, and the combined organic extracts were washed sequentially with sat'd aq. NaHCO3, water, and brine. The solution was dried (MgSO4), and concentrated under reduced pressure to afford a tan solid. The crude product was chromatographed on silica gel(elution with 3:1 hexanes-ether) to afford, after concentration, 90 mg (58%) of (+/−)-6-chloro-4-(cyclopropylethynyl)-8-fluoro-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one as an off-white solid. 1H NMR (300 MHz, CDCl3) δ 7.65(br s, 1H); 7.32-7.34(m, 1H); 7.22(d, 1H, J=2.2 Hz); 1.36-1.43(m, 1H); 0.82-0.98(m, 4H). 19F (282 MHz, CDCl3) δ −132.5(s, 1F), −81.1(s, 3F). High resolution mass spec: calculated for C14H9NO2ClF4(M+H)+: 334.0258, found: 334.0244.

reactant | 2-amino-5-chloro-3-fluoro-α-(cyclopropylethynyl)-α-(trifluoromethyl)benzyl alcohol | NC1=C(C(C(F)(F)F)(C#CC2CC2)O)C=C(C=C1F)Cl | C13H10ClF4NO
reactant | triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | (+/−)-6-Chloro-4-(cyclopropylethynyl)-8-fluoro-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazin-2-one | ClC=1C=C(C2=C(C(OC(N2)=O)(C(F)(F)F)C#CC2CC2)C1)F | C14H8ClF4NO2
